US07238818B2
b. Synthesis of dimethylsilyl(2-methylindenyl)(2-methylthiopentalene)
In a 250 mL round bottom flask with sidearm, stirring bar, and 60 mL dropping funnel was added 2-methylindene (13 g, 100 mmol, product made by Boulder) dissolved in THF (20 mL). N-Butyllithium (100 mmol, 40 mL of a 1.6 M solution in hexane) was added dropwise at room temperature. After addition was complete, the flask and contents were stirred an additional 2 h. A solution containing dimethylsilyl(2-methylthiopentalene)chloride in THF (30 mL) was added dropwise at room temperature. Stirring was continued for 1 hour, after which time the reaction was quenched with 30 mL of a 30% water/THF mixture, concentrated on a rotary evaporated, and a sample submitted for analysis.

reactant | 2-methylindene | 100 mmol, 13 g | CC=1CC2=CC=CC=C2C1 | C10H10
reactant | N-Butyllithium | [Li+].CCC[CH2-]
reactant | dimethylsilyl(2-methylthiopentalene)chloride | [Cl-].C[SiH](C)C1=C(C=C2C=CC=C12)SC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | dimethylsilyl(2-methylindenyl)(2-methylthiopentalene) | C[SiH](C)C=1C(=C(C2=CC=CC12)C1C(=CC2=CC=CC=C12)C)SC | C21H22SSi
